US05091432
250 mg (1.06 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl) propionic acid, ethyl ester (AIT-0027) was heated with 500 mg (3.99 mmol) of 1-(3-aminopropyl)-imidazole in a 10 ml round bottom flask at 120° C. for two hours with stirring. The resulting viscous yellow oil was chromatographed on 15 g of silica gel, eluting with 60% methanol/40% ethyl acetate, which yielded a highly viscous colorless oil after evaporation of the solvent. The oil was dissolved in approximately 50 ml of ethyl ether and then methanol was added slowly until a white precipitate formed. The precipitate was collected by vacuum filtration and washed with ethyl ether. The material was dried to yield 200 mg of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-[3-(1-imidazolyl)propyl]propanamide (AIT-0037) as a white solid. Yield 66%.

reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl) propionic acid, ethyl ester | 1.06 mmol, 250 mg | O=C1C=2N=CN(C2N=CN1)CCC(=O)OCC | C10H12N4O3
reactant | 1-(3-aminopropyl)-imidazole | 3.99 mmol, 500 mg | NCCCN1C=NC=C1 | C6H11N3
product | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-[3-(1-imidazolyl)propyl]propanamide | 200 mg, Yield 66% | O=C1C=2N=CN(C2N=CN1)CCC(=O)NCCCN1C=NC=C1 | C14H17N7O2
